US08802679B2
3-Chloro-4-fluorobenzoic acid (1 g) was dissolved in N,N-dimethylacetamide (10 ml), and tert-butyl piperazine-1-carboxylate (1.3 g) and DIPEA (1.9 g) were added thereto, followed by stirring at 130° C. overnight. The reaction mixture was concentrated under reduced pressure, and a 1 M aqueous NaOH solution was added thereto, followed by washing with EtOAc. The pH of the aqueous layer was adjusted to around 6 to 7 by the addition of 1 M hydrochloric acid, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH). The product was dissolved in dioxane (10 ml), and 4 M hydrogen chloride/dioxane (10 ml) was added thereto, followed by stirring at room temperature overnight. The precipitated solid was collected by filtration to obtain 3-chloro-4-piperazin-1-yl benzoic acid hydrochloride (142 mg).

reactant | 3-Chloro-4-fluorobenzoic acid | 1 g | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
reactant | tert-butyl piperazine-1-carboxylate | 1.3 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 1.9 g | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 3-chloro-4-piperazin-1-yl benzoic acid hydrochloride | 142 mg | Cl.ClC=1C=C(C(=O)O)C=CC1N1CCNCC1 | InChI=1S/C11H13ClN2O2.ClH/c12-9-7-8(11(15)16)1-2-10(9)14-5-3-13-4-6-14;/h1-2,7,13H,3-6H2,(H,15,16);1H
